US06919337B2
A solution of (6-bromo-isoquinolin4-yl)-acetic acid methyl ester (52 mg, 0.19 mmol), prepared as described as an intermediate for Intermediate 31, in DMF (3 ml) is added to zinc dicyanide (26 mg, 0.22 mmol) under a nitrogen atmosphere. To the resulting mixture is added 1,1′-bis(diphenylphosphino)ferrocene (15 mg) and tris(dibenzylideneacetone)dipalladium(0) (8 mg) and the resulting mixture stirred at 120° C. for 22 h. The solution is cooled and diluted with chloroform (30 ml) and washed with water (2×20 ml) followed by brine (20 ml). Further chlorofrom is added (40 ml) and the solution dried over MgSO4, filtered and concentrated. Repetitive flash silica column chromatography (eluants 40:1 CH2Cl2:methanol, then 50:1 CH2Cl2:methanol) gives (6-cyano-isoquinolin-4-yl)-acetic acid methyl ester [MH]+ 227. This intermediate is saponified by treatment with LiOH in 3:1 THF/water. The resulting mixture is partially evaporated to remove the THF, diluted to 10 ml with water then washed with ethyl acetate. The aqeous phase is then neutralized with 1M hydrochloric acid (to pH 4-5) and exhaustively extracted with ethylacetate. The organic phase is dried over MgSO4, filtered and concentrated to give (6-cyano-isoquinolin-4-yl)-acetic acid M+ 212.

reactant | (6-bromo-isoquinolin4-yl)-acetic acid methyl ester | 0.19 mmol, 52 mg | COC(CC1=CN=CC2=CC=C(C=C12)Br)=O | C12H10BrNO2
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | zinc dicyanide | 0.22 mmol, 26 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 15 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (6-cyano-isoquinolin-4-yl)-acetic acid methyl ester | COC(CC1=CN=CC2=CC=C(C=C12)C#N)=O | C13H10N2O2
